US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with 1-(2-naphthylsulphonyl)-1,4-diazepane to give 1-(2-naphthylsulphonyl)-4-[1-(4-pyridyl)piperidin-4-ylcarbonyl]-1,4-diazepane in 42% yield, m.p. 178-180° C.;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | 1-(2-naphthylsulphonyl)-1,4-diazepane | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCNCCC1 | C15H18N2O2S
product | 1-(2-naphthylsulphonyl)-4-[1-(4-pyridyl)piperidin-4-ylcarbonyl]-1,4-diazepane | 42% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCN(CCC1)C(=O)C1CCN(CC1)C1=CC=NC=C1 | C26H30N4O3S
